US06608062B1
b) 5-Amino-3-methyl-6-phenyl-[1,2,4]triazine
To a solution of 3-methyl-6-phenyl-[1,2,4]triazine-4-oxide (3 g, 16 mmol) in chloroform (80 ml) was added p-toluenesulfonyl chloride (3.05 g, 16 mmol) and the mixture stirred under nitrogen at room temperature for 30 min. To this mixture was added aqueous ammonia (48 ml of 12%) and ammonia in dioxane (160 ml of a 0.5 M solution) and stirred at room temperature for 72 h. The organic layer was separated from the aqueous which was extracted with dichloromethane (2×20 ml), the combined organic layers dried over MgSO4 and evaporated in vacuo. The residue was purified by flash chromatography (SiO2; 20% EtOAc in hexanes) to afford the title compound (1.7 g). δH (400 MHz; d6-DMSO) 2.42 (3H, s), 6.50-7.40 (2H, vbs), 7.49-7.63 (5H, m). m/z (ES+) 187 (M+1).

reactant | 3-methyl-6-phenyl-[1,2,4]triazine-4-oxide | 16 mmol, 3 g | CC=1N=NC(=C[N+]1[O-])C1=CC=CC=C1 | C10H9N3O
reactant | p-toluenesulfonyl chloride | 16 mmol, 3.05 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonia | 48 ml | N | H3N
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Amino-3-methyl-6-phenyl-[1,2,4]triazine | 1.7 g | NC=1N=C(N=NC1C1=CC=CC=C1)C | C10H10N4
